US07157447B2
N-(4-Fluorobenzyl)-3-(benzyloxy)-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 16, 3-benzyloxy-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid and 4-fluorobenzylamine. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.67 (3H, d, J=6.6 Hz, CH3), 3.91 (2H, m, CH2), 4.12–4.35 (2H, m, CH2), 4.52 (2H, d, J=5.9 Hz, NCH2), 4.70 (1H, q, J=6.6 Hz, OCH), 5.33 (2H, s, OCH2), 7.02 (2H, m, aromatics), 7.25 (2H, m, aromatics), 7.35 (3H, m, aromatics), 7.47 (2H, m, aromatics), 7.71 (1H, broad t, NH).

reactant | 3-benzyloxy-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)C)C(=O)O | C16H16N2O5
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-(4-Fluorobenzyl)-3-(benzyloxy)-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)C)C=C1 | C23H22FN3O4
